US08664220B2
Step 2: 2-Bromo-6-(2-fluoro-benzyl)-pyridine
A solution of 2-fluoro-benzylzinc bromide was added to 2,6-dibromo-pyridine (1.25 g, 5.27 mmol) then tetrakis(triphenylphosphine)palladium(0) (0.122 g, 0.106 mmol) was added and the reaction was heated to 68° C. for 4 hours. After cooling, silica gel was added to the reaction and it was concentrated to near-dryness. The silica gel was loaded onto a column of silica gel for purification to afford thet title compound.

reactant | 2-fluoro-benzylzinc bromide | [Br-].FC1=C(C[Zn+])C=CC=C1
reactant | 2,6-dibromo-pyridine | 5.27 mmol, 1.25 g | BrC1=NC(=CC=C1)Br | C5H3Br2N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.106 mmol, 0.122 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-Bromo-6-(2-fluoro-benzyl)-pyridine | BrC1=NC(=CC=C1)CC1=C(C=CC=C1)F | C12H9BrFN
